US04235915
Erythro 1-benzoyl-3-[1-(2-[6-methoxy-1,4-benzodioxan-2-yl]-2-hydroxyethyl)piperid-4-yl]urea
Using the procedure of Example 4 erythro 4-amino-1-[2-(6-methoxy-1,4-benzodioxan-2-yl)-2-hydroxyethyl]piperidine may be reacted with benzoyl isocyanate to give the title compound.

reactant | 4-amino-1-[2-(6-methoxy-1,4-benzodioxan-2-yl)-2-hydroxyethyl]piperidine | NC1CCN(CC1)CC(O)C1COC2=C(O1)C=CC(=C2)OC | C16H24N2O4
reactant | benzoyl isocyanate | C(C1=CC=CC=C1)(=O)N=C=O | C8H5NO2
product | 1-benzoyl-3-[1-(2-[6-methoxy-1,4-benzodioxan-2-yl]-2-hydroxyethyl)piperid-4-yl]urea | C(C1=CC=CC=C1)(=O)NC(=O)NC1CCN(CC1)CC(O)C1COC2=C(O1)C=CC(=C2)OC | C24H29N3O6
